US08633173B2
N-(3-Amino-pyridin-2-yl)-N-methyl-methanesulfonamide was prepared from N-methyl-N-(3-nitro-pyridin-2-yl)-methanesulfonamide (6.20 g, 26.8 mmol)(prepared as described in J. Med. Chem., 2007, 50, 3431) via hydrogenation using a Paar apparatus with 10% Palladium on Carbon (50% Wet) (5:45:50, Palladium:carbon black:Water, 5.71 g, 2.68 mmol) and Hydrogen (50 psi) in 2:1 ethyl acetate:methanol (150 mL). The mixture was shaken on a Paar apparatus until adsorption of hydrogen ceased. The mixture was degassed, backflushed with nitrogen, filtered through a plug of diatomaceous earth and rinsed with dichloromethane. The filtrate was evaporated under reduced pressure. Product isolated as brown solid (5.15 g, 95%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.85 (dd, J=3.7, 2.5 Hz, 1H), 7.10-7.08 (m, 2H), 4.24 (br s, 2H), 3.23 (s, 3H), 3.08 (s, 3H). MS=202 (MH)+.

reactant | N-methyl-N-(3-nitro-pyridin-2-yl)-methanesulfonamide | 26.8 mmol, 6.20 g | CN(S(=O)(=O)C)C1=NC=CC=C1[N+](=O)[O-] | C7H9N3O4S
reactant | Hydrogen | [H][H] | H2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on Carbon | 2.68 mmol, 5.71 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | N-(3-Amino-pyridin-2-yl)-N-methyl-methanesulfonamide | NC=1C(=NC=CC1)N(S(=O)(=O)C)C | C7H11N3O2S
